US04001447
A mixture of 13.5 g of ethyl 2-benzoyloxymethyl-thiazole-5-carboxylate, 135 ml of water and 8 ml of postassium hydroxide was heated at 95° C with stirring for an hour and the mixture was cooled and extracted with ether. The aqueous phase was acidified and was then saturated with sodium chloride. The mixture was extracted with ethyl acetate and the organic extracts were washed with water, dried and evaporated to dryness to obtain 11,5 g of raw product. The product was chromatographed over silica gel and was eluted with a 8-2 methylene chloride-ethanol mixture containing 2% acetic acid. The 6 g of product were crystallized from a 3-1 acetone-methanol mixture to obtain 5.04 g of 2-hydroxymethyl-thiazole -5-carboxylic acid melting at 193° C.

reactant | ethyl 2-benzoyloxymethyl-thiazole-5-carboxylate | 13.5 g | C(C1=CC=CC=C1)(=O)OCC=1SC(=CN1)C(=O)OCC | C14H13NO4S
reactant | hydroxide | 8 ml | [OH-]
solvent | water | 135 ml | O | H2O
product | 2-hydroxymethyl-thiazole -5-carboxylic acid | 5.04 g | OCC=1SC(=CN1)C(=O)O | C5H5NO3S
